US06013653
(+)8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-on (100 g) was suspended in the mixture of ethanol (300 ml) and deionized water (300 ml), and 6 N hydrochloric acid (100 ml) was added thereto at an interior temperature of not less than 30° C. After the addition thereof, it was heated to an interior temperature of 65~75° C. and the precipitated crystals were dissolved. After the dissolution, it was clarified by filtration, and the filtration vessel and so forth were washed with 200 ml of deionized water. The filtrate and the washings was combined, cooled to a temperature of not higher than 10° C., and the precipitated crystals were collected by filtration, washed with water, and dried to obtain (+)8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one·hydrochloride as white crystals.

reactant | (+)8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-on | 100 g | CC1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CNC2C)=O | C18H19N3O
reactant | ethanol | 300 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 6 N, 100 ml | Cl | ClH
solvent | water | 300 ml | O | H2O
product | (+)8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one·hydrochloride | yield=93% | CC1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CNC2C)=O.Cl | InChI=1S/C18H19N3O.ClH/c1-11-14-5-3-4-6-17(14)21-16(11)8-7-13(18(21)22)9-15-12(2)19-10-20-15;/h3-6,10,13H,7-9H2,1-2H3,(H,19,20);1H
